Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
oxycodone
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___: Coronary artery bypass grafts x3 (LIMA-LAD, SVG-PDA, 
SVG-OM2); Endovascular saphenous vein harvest LLE.

 
History of Present Illness:
Mr. ___ is a ___ year old man with past medical history of 
coronary artery disease, diabetes mellitus, hyperlipidemia, and 
hypertension. He presented to ___ with crushing chest pain 
radiating to his back which occurred while running. He ruled out 
for MI. Nuclear stress test demonstrated anterior ischemia. He 
was referred for coronary angiogram which revealed coronary 
artery disease. Cardiac surgery consulted for coronary artery 
bypass graft evaluation. 

 
Past Medical History:
Cervical Spine Disease
Coronary Artery Disease
Diabetes Mellitus Type II  
Hyperlipidemia
Hypertension  
Myocardial Infarction, s/p PCI to OM1; ___ 
Neuropathy
 
Social History:
___
Family History:
Brother had CABG at age ___.
Father died of old age
Mother alive 
 
Physical ___:
ADMISSION PHYSICAL EXAMINATION:  
===============================  
BP: 139/87  HR: 56  RR: 16  O2 sat: 97% RA
Height: 66 in  Weight: 210 lbs 

General:
Skin: Dry [] intact [x]
HEENT: PERRLA [] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  
Extremities: Warm [x], well-perfused [x]  No edema [x]
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+ Left: 2+

Carotid Bruit: absent bilaterally

DISCHARGE PHYSICAL EXAMINATION:  

Physical Examination:
General: NAD [x] 
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: Decreased at the bases bilaterally. No resp 
distress
[x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema  
Left Upper extremity    Warm [x]  Edema 
Right Lower extremity   Warm [x]  Edema trace
Left Lower extremity    Warm [x]  Edema trace
Pulses:
DP             Right:       Left:
___             Right:       Left:
Radial         Right:       Left:
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [] no erythema or drainage []
                 Sternum stable [x] Prevena [x]
Lower extremity: Right [] Left [x]  CDI [x]
Upper extremity: Right [] Left []  CDI []
Other:
=============================== 

 
Pertinent Results:
ADMISSION LABS:  
===============================  
___ 04:55PM BLOOD WBC-8.1 RBC-4.82 Hgb-14.2 Hct-43.8 MCV-91 
MCH-29.5 MCHC-32.4 RDW-13.0 RDWSD-42.6 Plt ___
___ 04:55PM BLOOD ___ PTT-55.7* ___
___ 04:55PM BLOOD Glucose-181* UreaN-13 Creat-0.8 Na-141 
K-4.0 Cl-103 HCO3-27 AnGap-11
___ 04:55PM BLOOD ALT-29 AST-25 AlkPhos-77 Amylase-99 
TotBili-0.4
___ 04:55PM BLOOD Albumin-4.1 Calcium-8.9 Phos-2.8 Mg-1.9
___ 09:50PM BLOOD %HbA1c-10.1* eAG-243*
___ 09:50PM BLOOD Triglyc-533* HDL-37* CHOL/HD-4.6 
LDLmeas-98

PERTINENT STUDIES:  
===============================  
___ CORONARY ANGIOGRAPHY
Stenoses: 90% LAD proximal with 40% distal and 50% diag, 70% OM 
with existing patent stent, 70% RCA

pMIBI ___
There is a small to moderate zone of anterior  apical wall 
reversibly decreased perfusion suggesting ischemia. No fixed 
defect of LV perfusion to suggest established infarct.
1. Anteroapical ischemia.
2. Normal wall motion demonstrated. Ejection fraction is 
estimated to
be 59%.

CXR ___
Heart is normal in size. Descending aorta shows mild unfolding.  
Mediastinal and hilar contours are otherwise unremarkable. 
Platelike opacities are consistent with minor atelectasis in the 
lingula. Otherwise, lungs appear clear. No pleural effusion or 
pneumothorax. Bony structures are unremarkable. 

Transthoracic Echocardiogram ___
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is
normal left ventricular wall thickness with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative biplane left ventricular 
ejection fraction is 55 % (normal
54-73%). There is no resting left ventricular outflow tract 
gradient. Mildly dilated right ventricular cavity with normal 
free wall motion. Tricuspid annular plane systolic excursion 
(TAPSE) is normal. The
aortic sinus diameter is normal for gender with normal ascending 
aorta diameter for gender. The aortic arch diameter is normal 
with a normal descending aorta diameter. There is no evidence 
for an aortic arch
coarctation. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. There is  mild [1+] aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
There is mild [1+] mitral
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
mild [1+] tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is
normal. There is no pericardial effusion.

DISCHARGE LABS:  
===============================  
___ 05:18AM BLOOD WBC-9.3 RBC-3.85* Hgb-11.3* Hct-35.7* 
MCV-93 MCH-29.4 MCHC-31.7* RDW-12.9 RDWSD-43.6 Plt ___
___ 03:25AM BLOOD ___ PTT-32.7 ___
___ 05:18AM BLOOD Glucose-164* UreaN-19 Creat-0.8 Na-142 
K-3.7 Cl-100 HCO3-29 AnGap-13
___ 09:18AM BLOOD ALT-31 AST-26 AlkPhos-80 TotBili-0.5

EXAMINATION:  CHEST (PA AND LAT) ___
 
INDICATION:  ___ year old man eval effusions// ___ year old man 
eval effusions
 
TECHNIQUE:  Chest PA and lateral
 
COMPARISON:  Comparisons made to multiple prior chest 
radiographs, most
recently ___.
 
FINDINGS: 
 
Slight improvement in lung volumes bilaterally.  The 
cardiomediastinal
silhouette is stably enlarged, consistent with a postoperative 
state.  The
right IJ catheter has been removed.  There is no sign of 
pulmonary edema and
there is mild obscuration of the left hemidiaphragm, consistent 
with a small
pleural effusion and there is retrocardiac opacity, consistent 
with
atelectasis.  There is also likely a small right pleural 
effusion and
atelectasis.
 
IMPRESSION: 
 
Interval mild improvement in bibasilar atelectasis and small 
pleural
effusions.  Otherwise, stable postoperative appearance of the 
chest.
Improvement in pulmonary edema.

 
Brief Hospital Course:
He was admitted to ___ on ___ and underwent routine 
preoperative evaluation. He was cleared for surgery and was 
brought to the Operating Room on ___. He underwent coronary 
artery bypass grafting x 3. Please see operative note for full 
details. Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. POD 1 found the 
patient extubated, alert and oriented and breathing comfortably. 
The patient was neurologically intact and hemodynamically 
stable. Beta blocker was initiated and the patient was gently 
diuresed toward the preoperative weight. Oxycodone was stopped 
due to nausea and Ultram/Tylenol were used for pain control. The 
patient was transferred to the telemetry floor for further 
recovery. Chest tubes and pacing wires were discontinued without 
complication. ___ was consulted due to HBA1C 10.1% 
preoperatively while on oral agents and the patient was started 
on Lantus and a sliding scale. The ___ educator met with 
patient to begin teaching on new use of insulin injections. The 
patient was evaluated by the Physical Therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD #5 the patient was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
patient was discharged to home in good condition with 
appropriate follow up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
2. Potassium Chloride 10 mEq PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Losartan Potassium 50 mg PO DAILY 
5. GlipiZIDE XL 5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Aspirin EC 81 mg PO DAILY 
RX *aspirin [Aspir-Low] 81 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Furosemide 40 mg PO BID Duration: 2 Weeks 
RX *furosemide 20 mg 2 tablet(s) by mouth twice a day Disp #*56 
Tablet Refills:*0 
5.  Glucose Gel 15 g PO PRN hypoglycemia protocol  
6.  Glargine 19 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic [OneTouch Verio]  test glucose 4 
times a day Disp #*100 Strip Refills:*2
RX *insulin glargine [Lantus Solostar U-100 Insulin] 100 unit/mL 
(3 mL) AS DIR 19 Units before BKFT; Disp #*2 Syringe Refills:*2
RX *blood-glucose meter [OneTouch Verio System]  test glucose 4 
times per day Disp #*1 Each Refills:*0
RX *insulin lispro [Humalog KwikPen Insulin] 100 unit/mL AS DIR 
Up to 11 Units QID per sliding scale Disp #*2 Syringe Refills:*2
RX *lancets [OneTouch Delica Lancets] 33 gauge test glucose 4 
times per day Disp #*100 Each Refills:*2 
7.  Metoprolol Tartrate 25 mg PO Q8H 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0 
8.  Polyethylene Glycol 17 g PO DAILY  
9.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
10.  Senna 17.2 mg PO DAILY  
11.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*64 Tablet Refills:*0 
12.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
13.  Potassium Chloride 40 mEq PO DAILY 
RX *potassium chloride [K-Tab] 20 mEq 2 tabs by mouth once a day 
Disp #*28 Tablet Refills:*0 
14.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
RX *metformin 1,000 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
15.needles
insulin pen needles 32G, ___ Ultra Nano)
Disp # 150 needles
2 refills
16.Outpatient Lab Work
please check BUN/Creat and potassium 2x/ week

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary ARtery Disease
hypertension
hyperlipidemia
diabetes mellitus type 2 

 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema: trace -1+

 
Discharge Instructions:
Your prevena dressing will remain in place for 2 more days then 
it may be removed by the ___. 

Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily once Prevena 
removed
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___